US05273986
A solution of 0.5 g of (E)-2-[2-(3-aminophenyl)ethenyl]-4-thiazolecarboxylic acid ethyl ester, 0.3 g of homophthalic anhydride, 15 ml of toluene and 5 ml of tetrahydropyran was heated to reflux for 0.5 hr. Upon cooling, a solid formed which was filtered to yield 0.8 g of (E)-2-[2-[3-[2-[4-(ethoxycarbonyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid; m.p. 221°-223° C. from ethanol.

reactant | (E)-2-[2-(3-aminophenyl)ethenyl]-4-thiazolecarboxylic acid ethyl ester | 0.5 g | C(C)OC(=O)C=1N=C(SC1)\C=C\C1=CC(=CC=C1)N | C14H14N2O2S
reactant | homophthalic anhydride | 0.3 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | tetrahydropyran | 5 ml | O1CCCCC1 | C5H10O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[2-[3-[2-[4-(ethoxycarbonyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid | 0.8 g | C(C)OC(=O)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(C(=O)O)C=CC=C1)=O | C23H20N2O5S
